US07544679B2
A solution of 200 mg (0.65 mmol) (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one and 150 mg (0.65 mmol) (RS)-2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid in 7 ml tetrahydrofuran were cooled to 0° C. and 102 mg (0.65 mmol) 1-hydroxy-benzotriazole hydrate, 228 μl (1.31 mmol) diisopropylethylamine and 128 mg (0.65 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight at room temperature. Removal of the solvent by distillation and chromatography on silicagel with ethylacetate/heptane (gradient 1/4 to 4/1) yielded 220 mg (65%) (R/S)-2-hydroxy-2-methyl-N-[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(3,3,3-trifluoro-propyl)-malonamide as a white solid, MS (m/e): 518.2 (M+H)+.

reactant | (S)-7-amino-5-(2,2,2-trifluoro-ethyl)-5H,7H-dibenzo[b,d]azepin-6-one | 0.65 mmol, 200 mg | N[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2 | C16H13F3N2O
reactant | (RS)-2-hydroxy-2-methyl-N-(3,3,3-trifluoro-propyl)-malonamic acid | 0.65 mmol, 150 mg | OC(C(=O)O)(C(=O)NCCC(F)(F)F)C | C7H10F3NO4
reactant | 1-hydroxy-benzotriazole hydrate | 0.65 mmol, 102 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 1.31 mmol, 228 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.65 mmol, 128 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | (R/S)-2-hydroxy-2-methyl-N-[(S)-6-oxo-5-(2,2,2-trifluoro-ethyl)-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-N′-(3,3,3-trifluoro-propyl)-malonamide | 220 mg, 65% | OC(C(=O)N[C@H]1C2=C(C3=C(N(C1=O)CC(F)(F)F)C=CC=C3)C=CC=C2)(C(=O)NCCC(F)(F)F)C | C23H21F6N3O4
